US05276168
(trans)-1-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-3-phenylthiourea
A suspension of (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (prepared according to Evans et al., J. Med. Chem., 1983, 26, p. 1582 and J. Med. Chem., 1986, 29, p. 2194) (1.0 g, 4.6 mmol) in ethanol (4 ml) under argon was treated with phenylisothiocyanate (0.62 g, 4.6 mmol) and the reaction was heated at reflux for 4 hours. The reaction was then concentrated in vacuo and the residue was triturated with isopropylether to give the title compound as a colorless solid (1.4 g, 85%), m.p. 183-185° C.; 1H NMR (CDCl3) δ 8.5 (s, 1 H), 7.4 (m, 7 H), 6.83 (d, J=8.0 Hz, 1 H), 6.1 (s, 1 H), 6.0 (s, 1 H), 4.0 (s, 1 H), 3.67 (d, J=10.0 Hz, 1 H), 1.5 (s, 3 H), 1.3 (s, 3 H); 13C NMR (CDCl3) 182.5, 156.8, 133.3, 131.9, 130.4, 128.2, 126.0, 125.8, 122.2, 118.8, 118.6, 104.0, 80.5, 75.8, 50.0, 26.3, 18.6; IR (KBr) 1070, 1265, 1491, 1531, 2226, 2978, 3312, 3362 cm-1.

reactant | (trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 4.6 mmol, 1.0 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | phenylisothiocyanate | 4.6 mmol, 0.62 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | (trans)-1-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-3-phenylthiourea | 1.4 g, 85% | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NC(=S)NC2=CC=CC=C2)C1 | C19H19N3O2S
